US04711885
Over a period of 1 hour, 94.7 ml of dimethyl sulfate are added dropwise to a solution, maintained at reflux, of 125.2 g of 2-oxo-3-azabicyclo(3,3,0)octane in 350 ml of anhydrous benzene. Reflux is then maintained for 4 hours. After cooling, the reaction mixture is poured onto 100 ml of concentrated sodium hydroxide solution. The organic layer is decanted, and the aqueous layer is extracted twice with 200 ml of benzene each time. The benzene extracts are combined, dried over magnesium sulfate and concentrated in vacuo and the residue is distilled. In this manner 79.5 g of 2-methoxy-3-azabicyclo(3,3,0)oct-2-ene are obtained, b.p.: 64°-68° C., nD23 =1.4718.

reactant | dimethyl sulfate | 94.7 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 2-oxo-3-azabicyclo(3,3,0)octane | 125.2 g | O=C1C2CCCC2CN1 | C7H11NO
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
product | 2-methoxy-3-azabicyclo(3,3,0)oct-2-ene | 79.5 g | COC=1C2CCCC2CN1 | C8H13NO
